US04738957
A solution of 1.0 g of 3,16α-dihydroxy-1,3,5(10)-estratrien-17-one in 5 ml of pyridine is combined with 2.5 ml of propionic anhydride and maintained at room temperature for 22 hours. The reaction mixture is poured into ice water, the resultant precipitate is filtered off, washed with water, and taken up in dichloromethane. After drying over sodium sulfate, the solvent is evaporated under vacuum and the residue chromatographed on silica gel with a pentane-diethyl ether gradient (0-50% diethyl ether), thus obtaining 640 mg of 3,16α-dipropionyloxy-1,3,5(10)-estratrien-17-one.

reactant | 3,16α-dihydroxy-1,3,5(10)-estratrien-17-one | 1.0 g | OC1=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C2C=C1)=O)O | C18H22O3
reactant | propionic anhydride | 2.5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3,16α-dipropionyloxy-1,3,5(10)-estratrien-17-one | 640 mg | C(CC)(=O)OC1=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C2C=C1)=O)OC(CC)=O | C24H30O5
